US08871756B2
N˜2˜-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylpropane-1,2-diamine
The title compound was prepared in analogy to Example 9-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 2-methylpropane-1,2-diamine. MS obsd. (ESI+) [(M+H)+] 425, 1H NMR (400 MHz, CD3OD) δ ppm 7.98 (dd, J=7.83, 1.26 Hz, 1 H), 7.86 (d, J=6.82 Hz, 1 H), 7.70 (s, 1 H), 7.61 (td, J=7.45, 1.26 Hz, 1 H), 7.47-7.42 (m, 2 H), 7.29 (dd, J=8.59, 1.77 Hz, 1 H), 6.09 (s, 1 H), 5.16 (s, 2 H), 3.58 (t, J=4.80 Hz, 2 H), 3.33 (m, 2 H), 3.27 (s, 2 H), 2.43 (s, 3 H), 1.27 (s, 6 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 2-methylpropane-1,2-diamine | CC(CN)(C)N | C4H12N2
product | N˜2˜-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylpropane-1,2-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC(CN)(C)C)C)=O | C23H28N4O2S
